US04752645
(B) [2-(2-Amino-5-chlorophenyl)-1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester
To a refluxing mixture of [2-(5-chloro-2-nitrophenyl)-1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester (40 g, 95.0 mmole) and hydrated ferrous sulfate (184.5 g, 0.663 mole) in a (1:10 solution of methanol:water (1.2 L) was added concentrated ammonium hydroxide (142.5 ml) over a 30 minute period. The reaction was stirred at reflux for 20 minutes then cooled to room temperature. Ethyl acetate and Celite were added and the mixture was filtered through Celite. The filtrate was partitioned between ethyl acetate and water. The organic phase was dried over magnesium sulfate and concentrated in vacuo. The product was recrystallized from isopropyl alcohol to yield 28.22 g of the title compound, melting point 114°-116° C.

reactant | [2-(5-chloro-2-nitrophenyl)-1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester | 95.0 mmole, 40 g | ClC=1C=CC(=C(C1)CC(C1=CC=C(C=C1)OC)C(C(=O)OC)C(=O)OC)[N+](=O)[O-] | C20H20ClNO7
reactant | methanol | CO | CH4O
reactant | water | 1.2 L | O | H2O
reactant | ammonium hydroxide | 142.5 ml | [OH-].[NH4+]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [2-(2-Amino-5-chlorophenyl)-1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester | 28.22 g | NC1=C(C=C(C=C1)Cl)CC(C1=CC=C(C=C1)OC)C(C(=O)OC)C(=O)OC | C20H22ClNO5
